US05994355
2-(3,5-Dichlorophenyl)-5-phenyl-2,3-dihydro-1,2,4-triazin-3-one (Compound No. 27)
In 50 ml of dioxane was dissolved 2.20 g of 2-(3,5-dichlorophenyl)semicarbazide followed by addition of 1.52 g of phenylglyoxal monohydrate, and the mixture was refluxed for 5 hours. The reaction mixture was then concentrated and the residue was recrystallized from acetonitrile to provide 1.34 g of the title compound. m.p. 160-161° C.

reactant | 2-(3,5-dichlorophenyl)semicarbazide | 2.20 g | ClC=1C=C(C=C(C1)Cl)N(N)C(=O)N | C7H7Cl2N3O
reactant | phenylglyoxal monohydrate | 1.52 g | O.C1(=CC=CC=C1)C(=O)C=O
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 2-(3,5-Dichlorophenyl)-5-phenyl-2,3-dihydro-1,2,4-triazin-3-one | 1.34 g | ClC=1C=C(C=C(C1)Cl)N1N=CC(=NC1=O)C1=CC=CC=C1 | C15H9Cl2N3O
